US06174889B1
1-Benzyl-3-methyl-5-nitro-1H-indazole
2-Fluoro-5nitroacetophenone (H. Sato et al, Bioorganic and Medicinal Chemistry Letters, 5(3), 233-236, 1995) (0.24 g) was treated with triethylamine (0.73 ml) and benzyl hydrazine dihydrochloride (0.255 g) in ethanol (20 ml) at reflux under N2 for 8 days. The mixture was cooled and the solid 1-benzyl-3-methyl-5-nitroindazole (0.16 g) was collected by filtration; m/z (M+1)+268.

reactant | 2-Fluoro-5nitroacetophenone | 0.24 g | CC(=O)C1=C(C=CC(=C1)[N+](=O)[O-])F | C8H6FNO3
reactant | triethylamine | 0.73 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl hydrazine dihydrochloride | 0.255 g | Cl.Cl.C(C1=CC=CC=C1)NN
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-Benzyl-3-methyl-5-nitro-1H-indazole | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])C | C15H13N3O2
